US04731472
Step G: (5,6-Dichloro-2,3,9,9a-tetrahydro-3-oxo-9a-propyl-1H-fluoren-7-yl)acetic acid
[6,7-Dichloro-2,3-dihydro-1-oxo-2-(3-oxo-butyl)-2-propyl-1H-inden-5-yl]acetic acid (3.0 g, 0.00808 mole) was dissolved in 25 ml 1N sodium hydroxide and 6 ml water, stirred at room temperature for 70 hours and then the reaction was diluted with water and acidified with hydrochloric acid. The product was extracted with methylene chloride, the organic extracts were washed with water, dried over MgSO4, concentrated under vacuum and the residue recrystallized from acetonitrile to obtain the product, mp 206°-8°C.

reactant | [6,7-Dichloro-2,3-dihydro-1-oxo-2-(3-oxo-butyl)-2-propyl-1H-inden-5-yl]acetic acid | 0.00808 mole, 3.0 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(CCC)CCC(C)=O)CC(=O)O | C18H20Cl2O4
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 1N, 25 ml | [OH-].[Na+]
solvent | water | 6 ml | O | H2O
product | (5,6-Dichloro-2,3,9,9a-tetrahydro-3-oxo-9a-propyl-1H-fluoren-7-yl)acetic acid | ClC1=C2C3=CC(CCC3(CC2=CC(=C1Cl)CC(=O)O)CCC)=O | C18H18Cl2O3
